US07919498B2
3-Iodo-1-((8-methyl-2-o-tolylquinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine
Prepared according to Procedure I. A solution of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (400 mg, 1.5 mmol) in DMF (5 mL) at 0° C. was treated with NaH (60%, 67.4 mg, 1.1 eq) for 30 min before addition of a solution of 3-(chloromethyl)-8-methyl-2-o-tolylquinoline (435 mg, 1 eq) in DMF (2 mL). The mixture was stirred at room temperature over night. The reaction mixture was partitioned between DCM (50 mL) and water (50 mL). The insoluble was filtered and washed with DCM and water. The organic layer from the filtrate was separated, dried over Na2SO4, concentrated and purified by column chromatography on silica gel (eluent: DCM/MeOH, 25/1) to provide a white solid [PI3Kδ IC50=6 nM]. 1H-NMR (DMSO-d6) δ 7.96 (s, 1H), 7.85 (s, 1H), 7.63 (d, J=8.2 Hz, 1H), 7.44 (d, J=7.0 Hz, 1H), 7.31 (t, J=7.1 Hz, 1H), 6.94-6.99 (m, 4H), 5.26 (s, 2H), 2.45 (s, 3H), 1.79 (s, 3H). Mass Spectrum (ESI) m/e=507 (M+1).

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 1.5 mmol, 400 mg | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | NaH | 67.4 mg, 1.1 eq | [H-].[Na+]
reactant | 3-(chloromethyl)-8-methyl-2-o-tolylquinoline | 435 mg, 1 eq | ClCC=1C(=NC2=C(C=CC=C2C1)C)C1=C(C=CC=C1)C | C18H16ClN
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Iodo-1-((8-methyl-2-o-tolylquinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | IC1=NN(C2=NC=NC(=C21)N)CC=2C(=NC1=C(C=CC=C1C2)C)C2=C(C=CC=C2)C | C23H19IN6
